US04317826
To a mixture of 1 liter 5 percent aqueous sodium carbonate and 62.6 g. (0.233 mole) potassium nitrosodisulfonate was added 21.9 g. (0.092 mole) 7,8-dichloro-1,2,3,4-tetrahydroisoquinoline hydrochloride and then 0.1 liter 5 percent aqueous sodium carbonate. The reaction mixture was stirred at room temperature for 23 hours. The reaction mixture was then extracted with methylene chloride (3×250 ml.). The combined extract was washed with saturated sodium chloride solution, dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated to dryness under reduced pressure to afford a crude intermediate. The crude intermediate was recrystallized from ethyl acetate to yield 7,8-dichloro-3,4-dihydroisoquinoline as a yellow solid with a melting point of 56°-60° C. 7,8-Dichloro-3,4-dihydro isoquinoline was converted to the desired 7,8-dichloro-1-isopropyl-1,2,3,4-tetrahydroisoquinoline via a Grignard reaction with isopropylmagnesium iodide. 7,8-Dichloro-1-isopropyl-1,2,3,4-tetrahydroisoquinoline hydrochloride has a melting point of 196°-200° C.

reactant | potassium nitrosodisulfonate | 0.233 mole | N([O])(S(=O)(=O)[O-])S(=O)(=O)[O-].[K+].[K+]
reactant | 7,8-dichloro-1,2,3,4-tetrahydroisoquinoline hydrochloride | 0.092 mole | Cl.ClC1=CC=C2CCNCC2=C1Cl
solvent | sodium carbonate | 0.1 liter | C([O-])([O-])=O.[Na+].[Na+]
solvent | sodium carbonate | 1 liter | C([O-])([O-])=O.[Na+].[Na+]
product | 7,8-dichloro-3,4-dihydroisoquinoline | ClC1=CC=C2CCN=CC2=C1Cl | C9H7Cl2N
